US07790709B2
Preparation of (E)-N-(2-Isopropoxy-3-methoxy-benzyl)-N-methyl-3-[3-(2-morpholin-4-yl-ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylamide hydrochloride
According to the procedure of Example 1, except substituting 2-isopropoxy-3-methoxy-benzyl-methylamine for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, and substituting (E)-3-[3-(2-morpholin-4-yl-ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylic acid hydrochloride for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3,-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, the title compound (0.15 g, 47%) was prepared as an off-white solid: 1H NMR (500 MHz, DMSO-d6) δ 10.41-10.21 (m, 1H), 10.13 (br s, 1H), 8.41-8.31 (m, 1H), 8.01-7.93 (m, 1H), 7.51-7.43 (m, 1H), 7.31-7.11 (m, 1H), 7.01-6.91 (m, 2H), 6.70-6.59 (m, 1H), 4.76-4.52 (m, 5H), 4.11-3.85 (m, 7H), 3.84-3.60 (m, 3H), 3.59-3.51 (m, 21), 3.40-3.31 (m, 2H), 3.07-2.86 (m, 4H), 1.23 (m, 6H); MS (ESI) m/e 524 (M+H)+.

reactant | 2-isopropoxy-3-methoxy-benzyl-methylamine | C(C)(C)OC1=C(CNC)C=CC=C1OC | C12H19NO2
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
reactant | (E)-3-[3-(2-morpholin-4-yl-ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylic acid hydrochloride | Cl.N1(CCOCC1)CCN1C(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
product | (E)-N-(2-Isopropoxy-3-methoxy-benzyl)-N-methyl-3-[3-(2-morpholin-4-yl-ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylamide hydrochloride | 0.15 g, 47% | Cl.C(C)(C)OC1=C(CN(C(\C=C\C2=CC3=C(NC(N(C3)CCN3CCOCC3)=O)N=C2)=O)C)C=CC=C1OC | InChI=1S/C28H37N5O5.ClH/c1-20(2)38-26-22(6-5-7-24(26)36-4)18-31(3)25(34)9-8-21-16-23-19-33(28(35)30-27(23)29-17-21)11-10-32-12-14-37-15-13-32;/h5-9,16-17,20H,10-15,18-19H2,1-4H3,(H,29,30,35);1H/b9-8+;
